US07262192B2
Dimethyl 1-(2-ethoxyethyl)-4-nitro-1H-pyrazole-3,5-dicarboxylate
4-Nitro-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester (2.0 g, 8.83 mmol) was added to a solution of 2-ethoxyethyl bromide (1.18 mL, 10.45 mmol) and potassium carbonate (1.32 g, 9.56 mmol) in N,N-dimethylformamide (35 mL) and the reaction mixture stirred for 48 hours at room temperature. The reaction mixture was concentrated in vacuo and partitioned between ethyl acetate (200 mL) and water (100 mL). The organic layer was separated, dried over magnesium sulphate and concentrated in vacuo. The crude product was purified by column chromatography on silica gel eluting with pentane:ethyl acetate 100:0 to 70:30 to yield the title product, 1.63 g.

reactant | 4-Nitro-1H-pyrazole-3,5-dicarboxylic acid dimethyl ester | 8.83 mmol, 2.0 g | COC(=O)C1=NNC(=C1[N+](=O)[O-])C(=O)OC | C7H7N3O6
reactant | 2-ethoxyethyl bromide | 10.45 mmol, 1.18 mL | C(C)OCCBr | C4H9BrO
reactant | potassium carbonate | 9.56 mmol, 1.32 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 35 mL | CN(C=O)C | C3H7NO
product | Dimethyl 1-(2-ethoxyethyl)-4-nitro-1H-pyrazole-3,5-dicarboxylate | C(C)OCCN1N=C(C(=C1C(=O)OC)[N+](=O)[O-])C(=O)OC | C11H15N3O7
